### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/IdealSheaf/IrreducibleComponent): subscheme structure on an irreducible component

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines the subscheme structure on an irreducible component of a Noetherian scheme. See the module docstring for more details on this.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
It is probably useful to have an `IrreducibleSpace` instance on this.

File: Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+public import Mathlib.AlgebraicGeometry.Noetherian
+
+/-!
+# Subscheme structure on an irreducible component
+
+We define the subscheme structure on an irreducible component of a Noetherian scheme. Typically,
+one takes the reduced induced subscheme structure, but this will throw away information if the
+irreducible component is not already reduced. Instead, we take the closed subscheme defined by
+the kernel of the restriction to the complement of the union of the other irreducible components.
+For example, if `X` is irreducible then this will give back the original scheme `X`.
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean:18]: > For example, if `X` is irreducible then this will give back the original scheme `X`.

Is it provable under the current library?

Comment (tb65536) [reply Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean:18]: Not the cleanest proof, but I was able to hack something together.

File: Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+Prove that for affine schemes this subscheme structure is defined by the kernel of the
+localization away from the union of the other minimal prime ideals.
+
+-/
+
+@[expose] public section
+
+namespace AlgebraicGeometry.Scheme
+
+variable (X : Scheme) (Z : Set X) (hZ : Z ∈ irreducibleComponents X) [IsNoetherian X]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean]:
```suggestion
universe u

namespace AlgebraicGeometry.Scheme

variable (X : Scheme.{u}) (Z : Set X) (hZ : Z ∈ irreducibleComponents X) [IsNoetherian X]
```
We prefer explicit universes for `Scheme` for performance reasons.

File: Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+  inferInstanceAs (IsClosedImmersion (X.irreducibleComponentIdeal Z hZ).subschemeι)
+
+instance : IrreducibleSpace (X.irreducibleComponent Z hZ) :=
+  Subtype.irreducibleSpace hZ.1
+
+instance [IrreducibleSpace X] : CategoryTheory.IsIso (X.irreducibleComponentι Z hZ) := by
+  suffices X.irreducibleComponentIdeal Z hZ = ⊥ by
+    rw [irreducibleComponentι]
+    convert inferInstanceAs (CategoryTheory.IsIso (IdealSheafData.subschemeι ⊥ : _ ⟶ X))
+    rw [irreducibleComponent, this]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean]: This lemma may be useful:
```
lemma isIso_subschemeι_iff_eq_bot {X : Scheme} (I : X.IdealSheafData) :
    CategoryTheory.IsIso I.subschemeι ↔ I = ⊥ := by
  refine ⟨fun h ↦ ?_, fun h ↦ h ▸ inferInstance⟩
  simp [← Scheme.IdealSheafData.ker_subschemeι I]
```
then this becomes
```suggestion
  rw [irreducibleComponentι, isIso_subschemeι_iff_eq_bot]
```

File: Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+namespace AlgebraicGeometry.Scheme
+
+variable (X : Scheme) (Z : Set X) (hZ : Z ∈ irreducibleComponents X) [IsNoetherian X]
+
+/-- The ideal sheaf data associated to an irreducible component of a Noetherian scheme. -/
+def irreducibleComponentIdeal : X.IdealSheafData where
+  __ := AlgebraicGeometry.Scheme.Hom.ker <| Opens.ι ⟨(⋃₀ (irreducibleComponents X \ {Z}))ᶜ, by
+    rw [Set.sUnion_eq_biUnion, isOpen_compl_iff]
+    exact TopologicalSpace.NoetherianSpace.finite_irreducibleComponents.diff.isClosed_biUnion
+      fun W hW ↦ isClosed_of_mem_irreducibleComponents W hW.1⟩
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean:46]: If you extract this into a separate lemma you would not have to do the `let U : Opens X := ?_; change ...` yoga below.

Comment (tb65536) [reply Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean:46]: Good point. I actually ended up just extracting the entire definition of `U` since that seemed to make things much smoother overall.

File: Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+
+@[expose] public section
+
+universe u
+
+namespace AlgebraicGeometry.Scheme
+
+variable (X : Scheme.{u}) (Z : Set X) (hZ : Z ∈ irreducibleComponents X) [IsNoetherian X]
+
+/-- The open subset associated to an irreducible component of a Noetherian scheme. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/IrreducibleComponent.lean]: This is not particularly descriptive. How about
```suggestion
/-- The complement of the irreducible components unequal to `Z` of a Noetherian scheme. -/
```
(or something similar, as you prefer)

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate
